US04289495
Preparation of 2-(2',5'-dihydroxy-4'-methylphenyl)-acetic acid
0.285 mol (60 g) of 2-(2',5'-dimethoxy-4'-methylphenyl)-acetic acid is heated under reflux for 5 hours in 480 ml of 48% strength hydrobromic acid.

reactant | 2-(2',5'-dimethoxy-4'-methylphenyl)-acetic acid | 0.285 mol, 60 g | COC1=C(C=C(C(=C1)C)OC)CC(=O)O | C11H14O4
reactant | hydrobromic acid | Br | BrH
product | 2-(2',5'-dihydroxy-4'-methylphenyl)-acetic acid | OC1=C(C=C(C(=C1)C)O)CC(=O)O | C9H10O4
